US07538233B2
1-Methyl-3-[3-(2-oxo-2H-1-benzopyran-4-yloxy)-propyl]-thiourea)
Is prepared according to the procedure for 1-[3-(6-chloro-2-oxo-2H-1-benzopyran-4-yloxy)-propyl]-3-methyl-thiourea from 4-(3-amino-propoxy)-1-benzopyran-2-one (trifluoroacetic acid salt) to afford the title compound after HPLC purification (71 mg, 73%). 1H NMR (DMSO-d6, 300 MHz) δ 7.87 (1H, dd, J=1.5, 7.75 Hz), 7.67 (1H, m), 7.56 (1H, br s), 7.39 (3H, m), 5.88 (1H, s), 4.24 (2H, t, J=6 Hz), 3.59 (2H, s), 2.79 (3H, s), 2.07 (2H, m); MS (ESI, Pos.) calcd for C14H16N2O3S m/z [M+H]=292.1, found 292.4.

reactant | 1-[3-(6-chloro-2-oxo-2H-1-benzopyran-4-yloxy)-propyl]-3-methyl-thiourea | ClC=1C=CC2=C(C(=CC(O2)=O)OCCCNC(=S)NC)C1 | C14H15ClN2O3S
reactant | 4-(3-amino-propoxy)-1-benzopyran-2-one | NCCCOC1=CC(OC2=C1C=CC=C2)=O | C12H13NO3
product | 1-Methyl-3-[3-(2-oxo-2H-1-benzopyran-4-yloxy)-propyl]-thiourea | CNC(=S)NCCCOC1=CC(OC2=C1C=CC=C2)=O | C14H16N2O3S
